US06372759B1
A) 3-Bromoindole-6-carboxylic acid
Using the procedure described in Example 34, Part A, indole-6-carboxylic acid (2.6 g, 16.1 mmol) and N-bromosuccinimide (2.9 g, 16.1 mmol) yielded 2.88 g (75%) of the title compound.

reactant | indole-6-carboxylic acid | 16.1 mmol, 2.6 g | N1C=CC2=CC=C(C=C12)C(=O)O | C9H7NO2
reactant | N-bromosuccinimide | 16.1 mmol, 2.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
product | 3-Bromoindole-6-carboxylic acid | 2.88 g, 75% | BrC1=CNC2=CC(=CC=C12)C(=O)O | C9H6BrNO2
